US07745484B2
Step 6: (S)—N-((2S,3S)-3-(tert-butyldimethylsilyloxy)-1-(3-chloro-5-fluorophenyl)-4-hydroxybutan-2-yl)-2-methylpropane-2-sulfinamide
To a 50 mL polypropylene bottle containing (S)—N-((2S,3S)-3,4-bis(tert-butyldimethylsilyloxy)-1-(3-chloro-5-fluorophenyl)butan-2-yl)-2-methylpropane-2-sulfinamide (350.00 mg, 618 μmol) was added THF (10 mL ) and the mixture was allowed to stir at 0° C. for 5 minutes. At this time, PYRIDINE (2699 μl, 33371 μmol) was added via syringe before the addition of HF-Pyridine, 70% HF 30% pyr (1782 μl, 19775 μmol) via a syringe. The reaction was allowed to stir at this temp for 2 h and then quenched by pouring into sodium bicarbonate (sat 150 ml). The aq. layer was extracted with EtOAc 94×75 mL). The combined organics were washed with HCl (0.1 N, 3×100 mL), bicarbonate (sat, 100 mL), brine and dried with sodium sulfate. The dried solution was filtered and concentrated to give a yellow oil which was purified on a 40 g ISCO column to give the title compound.

reactant | polypropylene | 50 mL | C(C(C)[*:2])[*:1]
reactant | (S)—N-((2S,3S)-3,4-bis(tert-butyldimethylsilyloxy)-1-(3-chloro-5-fluorophenyl)butan-2-yl)-2-methylpropane-2-sulfinamide | 618 μmol, 350.00 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](CC1=CC(=CC(=C1)F)Cl)N[S@@](=O)C(C)(C)C)CO[Si](C)(C)C(C)(C)C | C26H49ClFNO3SSi2
reactant | PYRIDINE | 33371 μmol, 2699 μl | N1=CC=CC=C1 | C5H5N
reactant | HF-Pyridine | C1=CC=NC=C1.F
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (S)—N-((2S,3S)-3-(tert-butyldimethylsilyloxy)-1-(3-chloro-5-fluorophenyl)-4-hydroxybutan-2-yl)-2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](CC1=CC(=CC(=C1)F)Cl)N[S@@](=O)C(C)(C)C)CO | C20H35ClFNO3SSi
